US07427613B2
(2-Chlorobenzyl)isopropylamine
Synthesized according to typical procedure J from 2-chlorobenzaldehyde and isopropylamine.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | isopropylamine | C(C)(C)N | C3H9N
product | (2-Chlorobenzyl)isopropylamine | ClC1=C(CNC(C)C)C=CC=C1 | C10H14ClN
